US04572913
Preparation of 3-salicylideneamino-1-(2-pyridyl)-2-pyrazoline
3-Amino-1-(2-pyridyl)-2-pyrazoline (1.6 g) and salicylaldehyde (1.2 g) were dissolved together with methanol (16 ml). The resulting solution was heated to reflux and after about 15 minutes a crystalline solid separated. After another 15 minutes at reflux the suspension was cooled and the separated 3-salicylideneamino-1-(2-pyridyl)-2-pyrazoline was re-crystallized from methanol m.p. 242°-243° (yield 500 mg).

reactant | 3-Amino-1-(2-pyridyl)-2-pyrazoline | 1.6 g | NC1=NN(CC1)C1=NC=CC=C1 | C8H10N4
reactant | salicylaldehyde | 1.2 g | C(C=1C(O)=CC=CC1)=O | C7H6O2
solvent | methanol | 16 ml | CO | CH4O
product | 3-salicylideneamino-1-(2-pyridyl)-2-pyrazoline | C(C=1C(O)=CC=CC1)=NC1=NN(CC1)C1=NC=CC=C1 | C15H14N4O
